US06472544B1
Tert-butyl(3R,5S)-6-chloro-3,5-dihydroxyhexanoate
A 5-L mini-jar fermenter containing 3 L of medium A was inoculated with Candida magnoliae IFO0705 and incubated at 30° C. with 0.5 vvm aeration and stirring at 500 rpm for 24 hours. After completion of cultivation, 30 g of tert-butyl(5S)-6-chloro-5-hydroxy-3-oxohexanoate (synthesized by the process described in Example 1) and 60 g of glucose were added and the reaction was carried out, with the pH maintained at 6.5 with sodium hydroxide, for 18 hours. After completion of the reaction, the cells were removed centrifugally and the supernatant was extracted twice using 1.5 L of ethyl acetate each. The organic phase was separated and dehydrated over anhydrous sodium sulfate and the solvent was distilled off by heating under reduced pressure to recover 24 g of tert-butyl(3R,5S)-6-chloro-3,5-dihydroxyhexanoate as a solid. As analyzed by the method described in Example 4, the diastereomer ratio of this product was (3R,5S)/(3S,5S)=100/0. 1H-NMR (CDCl3, 400 MHz/ppm): 1.47 (9H, s), 1.62-1.78 (2H, m), 2.43 (2H, d, J=6.4. Hz), 3.51-3.58 (2H, m), 3.75 (1H, bs), 3.84 (1H, bs), 4.07-4.13 (1H, m), 4.23-4.28 (1H, m)

reactant | tert-butyl(5S)-6-chloro-5-hydroxy-3-oxohexanoate | 30 g | ClC[C@H](CC(CC(=O)OC(C)(C)C)=O)O | C10H17ClO4
reactant | glucose | 60 g | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | sodium hydroxide | [OH-].[Na+]
product | Tert-butyl(3R,5S)-6-chloro-3,5-dihydroxyhexanoate | ClC[C@H](C[C@H](CC(=O)OC(C)(C)C)O)O | C10H19ClO4
